US09085653B2
As a polymerization initiator, dibutylamine (13.0 mmol) and n-butyllithium (13.0 mmol) were previously reacted in the presence of tetrahydrofuran (26.0 mmol) to obtain dibutylamino lithium. A cyclohexane solution of dibutylamino lithium (13.0 mmol) was supplied to the reactor.

reactant | dibutylamine | 13.0 mmol | C(CCC)NCCCC | C8H19N
reactant | n-butyllithium | 13.0 mmol | C(CCC)[Li]
reactant | tetrahydrofuran | 26.0 mmol | O1CCCC1 | C4H8O
product | dibutylamino lithium | C(CCC)N(CCCC)[Li] | InChI=1S/C8H18N.Li/c1-3-5-7-9-8-6-4-2;/h3-8H2,1-2H3;/q-1;+1
